US05135937
23.5 g of 1,2,4-triazole is combined under cooling in 250 ml of N,N-dimethylformamide in incremental portions with 14.15 g of sodium hydride, 60% in oil, and stirred at 25° for 1 hour until hydrogen release has ceased. To this solution is added 50 g of 4-(bromomethyl)benzonitrile in two portions under ice cooling at 5°, and the mixture is stirred for 2 hours at 25°. For working up purposes, 200 ml of water is added under ice cooling, the mixture is stirred for 1 hour, extracted with ethyl acetate, washed neutral with water, dried over sodium sulfate, concentrated to dryness under vacuum, and chromatographed on silica gel with dichloromethane/methanol, yielding 31.73 g of 4-[1-(1,2,4-triazolyl)methyl]benzonitrile as colorless crystals, mp. 72-73°.

reactant | 1,2,4-triazole | 23.5 g | N1N=CN=C1 | C2H3N3
reactant | sodium hydride | 14.15 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 4-(bromomethyl)benzonitrile | 50 g | BrCC1=CC=C(C#N)C=C1 | C8H6BrN
solvent | N,N-dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
product | 4-[1-(1,2,4-triazolyl)methyl]benzonitrile | 31.73 g | N1N=C(N=C1)CC1=CC=C(C#N)C=C1 | C10H8N4
